US04533731
The same procedures as described in Example 89 were repeated except that 8.0 g of 3-phthalimido-indazole and 10.1 g of 3-bromopropylmorpholine hydrobromide were employed instead of the 3-phthalimido-4-chloroindazole and the 4.83 g of 3-bromopropyldiethylamine hydrobromide, respectively. As a result, 8.7 g of 1-(3-morpholinopropyl)-3-(3-diethylaminopropylamino)indazole was obtained.

reactant | 3-phthalimido-indazole | 8.0 g | C1(C=2C(C(N1C1=NNC3=CC=CC=C13)=O)=CC=CC2)=O | C15H9N3O2
reactant | 3-bromopropylmorpholine hydrobromide | 10.1 g | Br.BrCCCN1CCOCC1
reactant | 3-phthalimido-4-chloroindazole | C1(C=2C(C(N1C1=NNC3=CC=CC(=C13)Cl)=O)=CC=CC2)=O | C15H8ClN3O2
reactant | 3-bromopropyldiethylamine hydrobromide | 4.83 g | Br.BrCCCN(CC)CC
product | 1-(3-morpholinopropyl)-3-(3-diethylaminopropylamino)indazole | 8.7 g | O1CCN(CC1)CCCN1N=C(C2=CC=CC=C12)NCCCN(CC)CC | C21H35N5O
